US04820834
4-Bromo-N-(2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-benzamide
The procedure of Example 134 was carried out employing equivalent amounts of 1,3-dihydro-1-methyl-3(RS)-amino-5-phenyl-2H-1,4-benzodiazepin-2-one and 4-bromobenzoyl chloride. The product was purified by chromatography on silica gel (5% (v/v) Et2O in CH2Cl2 elution). The combined product fractions were evaporated to dryness in vacuo and crystallized to give the title compound which was dried at 65° C.

reactant | 1,3-dihydro-1-methyl-3(RS)-amino-5-phenyl-2H-1,4-benzodiazepin-2-one | CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)N)=O | C16H15N3O
reactant | 4-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
product | 4-Bromo-N-(2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-benzamide | BrC1=CC=C(C(=O)NC2C(N(C3=C(C(=N2)C2=CC=CC=C2)C=CC=C3)C)=O)C=C1 | C23H18BrN3O2
